US06399606B1
3-[((2R)-2-{[(4—Chlorophenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid
Wang resin (100-200 mesh, 0.66 mmol/g, 70 mg) was treated with triphenylphosphine (34.5 mg), diethyl azodicarboxylate (20.8 μL) and 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid (72.3 mg) in THF (0.5 mL) at room temperature for 3 days. The resin was filtered, washed with dimethyl formamide, isopropanol, dichloromethane and ether and dried. The resin was treated with 20% piperidine-dichloromethane (1 mL) solution for 1 h. The resin was filtered, and washed with dimethyl formamide, isopropanol, dichloromethane and ether and dried. The resin was treated with 10 eq of 4-chlorophenyl isocyanate in dichloromethane (6 mL) for two days. The resin was washed with washed with dimethyl formamide, isopropanol, dichloromethane and ether and dried. The resin was treated with 20% trifluoroacetic acid in dichloromethane (5 mL). The solution was filtered, concentrated and purified on HPLC (C-18 prep column, 10% to 90% acetonitrile in water both containing 0.1% TFA) to give 12% of the title compound; ESMS, (M+1)+480.

reactant | triphenylphosphine | 34.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 20.8 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid | 72.3 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C29H28N2O7S
reactant | 4-chlorophenyl isocyanate | 10 eq | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-[((2R)-2-{[(4—Chlorophenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid | 12% | ClC1=CC=C(C=C1)NC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C21H22ClN3O6S
